US09278938B2
6-[Hydroxy(1-trityl-1H-imidazol-4-yl)methyl]-N-methyl-2-naphthamide (10.0 g, 19.1 mmol) and manganese dioxide (10.0 g, 115.0 mmol) were added to a mixed solvent of N,N-dimethylacetamide (25 mL) and ethyl acetate (63 mL), and the mixture was stirred at 60° C. for 3 hr. The insoluble material was filtered off at the same temperature, and washed with ethyl acetate (60 mL). The filtrate and washing were combined and concentrated to the volume of 30 mL under reduced pressure. To the residue was added dropwise diisopropyl ether (100 mL), and the mixture was stirred at room temperature. The obtained crystals were collected by filtration, and washed with diisopropyl ether (30 mL) to give crude wet crystals (26.4 g). The crude wet crystals (10.8 g) were added to ethyl acetate (54 mL), and the mixture was warmed to 60° C., and stirred for 0.5 hr. The obtained mixture was allowed to cool to room temperature, and diisopropyl ether (108 mL) was added dropwise thereto. The mixture was stirred with cooling to 5° C. The obtained crystals were collected by filtration, and washed with a mixed solvent (27 mL) of diisopropyl ether/ethyl acetate (2:1, volume ratio). The obtained wet crystals were dried under reduced pressure to give N-methyl-6-[(1-trityl-1H-imidazol-4-yl)carbonyl]-2-naphthamide (8.2 g, 15.7 mmol). yield 82%.

reactant | 6-[Hydroxy(1-trityl-1H-imidazol-4-yl)methyl]-N-methyl-2-naphthamide | 19.1 mmol, 10.0 g | OC(C=1C=C2C=CC(=CC2=CC1)C(=O)NC)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C35H29N3O2
reactant | N,N-dimethylacetamide | 25 mL | CN(C(C)=O)C | C4H9NO
reactant | diisopropyl ether | 108 mL | C(C)(C)OC(C)C | C6H14O
catalyst | manganese dioxide | 115.0 mmol, 10.0 g | [O-2].[O-2].[Mn+4]
solvent | ethyl acetate | 54 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 63 mL | C(C)(=O)OCC | C4H8O2
product | N-methyl-6-[(1-trityl-1H-imidazol-4-yl)carbonyl]-2-naphthamide | 15.7 mmol, 8.2 g, yield 82% | CNC(=O)C1=CC2=CC=C(C=C2C=C1)C(=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C35H27N3O2
